US08247413B2
2-(5-isoquinolinyl)-2-methyl-N-{4-[(trifluoromethyl)thio]benzyl}propanamide
The title compound was prepared using the procedure described in Example 222B using 4-[(trifluoromethyl)thio]benzylamine and 2-(5-isoquinolinyl)-2-methylpropanoic acid instead of 4-(trifluoromethoxy)benzylamine and 5-isoquinolinylacetic acid. MS (ESI+) m/z 405 (M+H)+; MS (ESI−) m/z 403 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 1.57 (s, 3H), 1.64 (s, 3H), 4.33 (d, J 6.1, 2H), 6.57 (s, 1H), 7.18 (m, 1H), 7.33 (m, 1H), 7.52 (m, 2H), 7.82 (m, 1H), 8.11 (m, 1H), 8.36 (d, J 7.8, 1H), 8.57 (m, 1H), 9.42 (s, 1H), 10.08 (s, 1H); Anal. Calcd for C21H19F3N2OS+2HCl: C, 52.84; H, 4.43. Found: C, 52.66; H, 4.39.

reactant | 4-[(trifluoromethyl)thio]benzylamine | FC(SC1=CC=C(CN)C=C1)(F)F | C8H8F3NS
reactant | 2-(5-isoquinolinyl)-2-methylpropanoic acid | C1=NC=CC2=C(C=CC=C12)C(C(=O)O)(C)C | C13H13NO2
reactant | 5-isoquinolinylacetic acid | C1=NC=CC2=C(C=CC=C12)CC(=O)O | C11H9NO2
product | 2-(5-isoquinolinyl)-2-methyl-N-{4-[(trifluoromethyl)thio]benzyl}propanamide | C1=NC=CC2=C(C=CC=C12)C(C(=O)NCC1=CC=C(C=C1)SC(F)(F)F)(C)C | C21H19F3N2OS
